US07291631B2
(5-Aminomethyl-2-{[(4-tert-butyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-phenyl)-methanol (0.047 g, 0.11 mmol), (±)-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid hydrochloride (0.027 g, 0.13 mmol), HOBT (0.017 g, 0.13 mmol), EDCI (0.024 g, 0.13 mmol) and DIPEA (40 μL, 0.26 mmol) in CH2Cl2 (8 mL) were reacted according to General Procedure G. Purification by column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 94:5:1, v/v/v) afforded 1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid 4-{[(4-tert-butyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzylamide as a white solid (0.018 g, 28%). 1H NMR (CDCl3) δ 1.40 (s, 9H), 1.59 (m, 1H), 1.89-2.02 (m, 2H), 2.22 (m, 1H), 2.69 (m, 1H), 2.79 (m, 1H), 3.22 (dt, 1H, J=12.0, 3.0 Hz), 3.55-3.66 (m, 4H), 3.87 (m, 1H), 3.94 (d, 2H, J=4.5 Hz), 4.06 (d, 2H, J=12.0 Hz), 4.40 (m, 3H), 7.04-7.24 (m, 9H), 7.36 (d, 1H, J=7.5 Hz), 7.52 (br t, 1H), 7.89 (s, 1H), 8.36 (d, 1H, J=6.0 Hz), 8.51 (d, 1H, J=3.0 Hz). HPLC: 89%. ES-MS m/z 604 [M+H]+.

reactant | (5-Aminomethyl-2-{[(4-tert-butyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-phenyl)-methanol | 0.11 mmol, 0.047 g | NCC=1C=CC(=C(C1)CO)CN(C1CCCC=2C=CC=NC12)CC1=NC=CC(=C1)C(C)(C)C | C28H36N4O
reactant | (±)-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid hydrochloride | 0.13 mmol, 0.027 g | Cl.C1NC(CC2=CC=CC=C12)C(=O)O
reactant | HOBT | 0.13 mmol, 0.017 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.13 mmol, 0.024 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 0.26 mmol, 40 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid 4-{[(4-tert-butyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzylamide | 0.018 g, 28% | C(C)(C)(C)C1=CC(=NC=C1)CN(C1CCCC=2C=CC=NC12)CC1=C(C=C(CNC(=O)C2NCC3=CC=CC=C3C2)C=C1)CO | C38H45N5O2
